US09034866B2
10-Bromo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.1 g) was reacted with dimethyl ethynyl carbinol similar to as described in Procedure E to afford 52.2 mg of 10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 338 (M)+. 1H NMR (400 MHz, DMSO) δ 8.50 (d, J=2.1 Hz, 1H), 7.79 (s, 1H), 7.51 (s, 1H), 7.29 (dd, J=8.5, 2.2 Hz, 1H), 7.11 (s, 1H), 7.01 (d, J=8.5 Hz, 1H), 5.42 (s, 1H), 4.48 (s, 4H), 1.48 (s, 7H).

reactant | 10-Bromo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.1 g | BrC=1C=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1 | C12H10BrN3O2
reactant | dimethyl ethynyl carbinol | CC(O)(C#C)C | C5H8O
product | 10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 52.2 mg | OC(C#CC=1C=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)(C)C | C17H17N3O3
